### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Eigenspace): `mem_eigenspace_intrinsicStar_iff` and `spectrum_intrinsicStar`

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/LinearMap.lean [hunk 1]
```diff
@@ -115,3 +116,22 @@ theorem intrinsicStar_rTensor (f : E →ₗ[R] F) : star (rTensor G f) = rTensor
...
+
+open scoped IntrinsicStar
+
+theorem IsUnit.intrinsicStar {f : End R E} (hf : IsUnit f) :
+    IsUnit (star f) := by
+  obtain ⟨u, rfl⟩ := hf
+  refine Units.isUnit <| Units.mk (star (u : End R E)) (star (u⁻¹ : (End R E)ˣ)) ?_ ?_
+  all_goals
+    rw [mul_eq_comp, ← LinearMap.intrinsicStar_comp]
+    simp [← mul_eq_comp, one_eq_id]
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/LinearMap.lean]: add scoped instance for this?
i.e.,
```lean
/-- Intrinsic star operation for `(End R E)ˣ`. -/
def Units.intrinsicStar : Star (End R E)ˣ where
  star f := by
    refine ⟨star f, star (f⁻¹ : (End R E)ˣ), ?_, ?_⟩
    all_goals
      rw [mul_eq_comp, ← LinearMap.intrinsicStar_comp]
      simp [← mul_eq_comp, one_eq_id]

scoped[IntrinsicStar] attribute [instance] Module.End.Units.intrinsicStar
```
and then
```suggestion
  exact (star u).isUnit
```

File: Mathlib/Algebra/Star/LinearMap.lean [hunk 2]
```diff
@@ -119,3 +120,22 @@ theorem intrinsicStar_rTensor (f : E →ₗ[R] F) : star (rTensor G f) = rTensor
...
+
+open Module.End in
+theorem isUnit_intrinsicStar_iff {f : End R E} :
```
Comment (ocfnash) [inline Mathlib/Algebra/Star/LinearMap.lean]:
```suggestion
@[simp] theorem isUnit_intrinsicStar_iff {f : End R E} :
```

File: Mathlib/LinearAlgebra/Eigenspace/IntrinsicStar.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+
+@[expose] public section
+
+namespace Module.End
+variable {R V : Type*} [InvolutiveStar R] [AddCommGroup V] [StarAddMonoid V]
+
+open scoped IntrinsicStar
+open LinearMap
+
+theorem mem_eigenspace_intrinsicStar_iff [CommRing R] [Module R V] [StarModule R V]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Eigenspace/IntrinsicStar.lean]:
```suggestion
@[simp]
theorem mem_eigenspace_intrinsicStar_iff [CommRing R] [Module R V] [StarModule R V]
```

File: Mathlib/LinearAlgebra/Eigenspace/IntrinsicStar.lean [hunk 4]
```diff
@@ -0,0 +1,36 @@
...
+    (f : End R V) (α : R) (x : V) :
+    x ∈ (star f).eigenspace α ↔ star x ∈ f.eigenspace (star α) := by
+  simp_rw [mem_eigenspace_iff, intrinsicStar_apply, star_eq_iff_star_eq, star_smul, eq_comm]
+
+theorem spectrum_intrinsicStar [CommSemiring R] [Module R V] [StarModule R V] (f : End R V) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Eigenspace/IntrinsicStar.lean]:
```suggestion
@[simp]
theorem spectrum_intrinsicStar [CommSemiring R] [Module R V] [StarModule R V] (f : End R V) :
```

File: Mathlib/Algebra/Star/LinearMap.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Star/LinearMap.lean]: Yes, let's add that `def` + scoped instance.

**Review by ocfnash — COMMENTED** [review]
I'm not sure we need a new file for these lemmas. How about we just add the required import and place the new lemmas there?

Given that `Mathlib.Algebra.Star.LinearMap` is a leaf file, it doesn't really matter if the import bot complains.

File: Mathlib/Algebra/Star/LinearMap.lean [hunk 5]
```diff
@@ -119,3 +121,47 @@ theorem intrinsicStar_rTensor (f : E →ₗ[R] F) : star (rTensor G f) = rTensor
...
+  hu ▸ (star u).isUnit
+
+open Module.End in
+@[simp] theorem isUnit_intrinsicStar_iff {f : End R E} :
+    IsUnit (star f) ↔ IsUnit f :=
+  ⟨fun h ↦ star_star f ▸ h.intrinsicStar, fun h ↦ h.intrinsicStar⟩
+
+section eigenspace
+variable {R V : Type*} [InvolutiveStar R] [AddCommGroup V] [StarAddMonoid V]
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Star/LinearMap.lean:150]: I think we should just add:
```suggestion
  [CommRing R] [Module R V] [StarModule R V]

```
here and not bother with the fact that `spectrum_intrinsicStar` can be proved with `CommSemiring`.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
